US07423056B2
a.) 3-(4-Bromo-thiophen-2-yl)-acrylic acid methyl ester (Scheme 3)
4-Bromo-thiophene-2-carbaldehyde (44 g, 0.23 mol) and [Bis-(2,2,2-trifluoro-ethoxy)-phosphoryl]-acetic methyl ester (80.6 g, 0.253 mol) were treated by the method outlined in Example 34, step a) to afford the subtitle compound that was purified by column chromatography (SiO2) using a 0-60% ethylacetate-hexane gradient (46.22 g, yield: 78%). MS calculated for C8H7BrO2S+H: 247, observed: 247 249.

reactant | 4-Bromo-thiophene-2-carbaldehyde | 0.23 mol, 44 g | BrC=1C=C(SC1)C=O | C5H3BrOS
reactant | [Bis-(2,2,2-trifluoro-ethoxy)-phosphoryl]-acetic methyl ester | 0.253 mol, 80.6 g | COC(CP(=O)(OCC(F)(F)F)OCC(F)(F)F)=O | C7H9F6O5P
product | 3-(4-Bromo-thiophen-2-yl)-acrylic acid methyl ester | yield: 78% | COC(C=CC=1SC=C(C1)Br)=O | C8H7BrO2S
